US08084484B2
d) Ethyl 2-(3,4-diaminophenyl)propanoate
To the flask was added THF/EtOH (1:1, 50 mL) followed by Ethyl 2-(4-amino-3-nitrophenyl)propanoate (2.12 g, 8.90 mmol) and 10% palladium carbon (220 mg) at room temperature. The reaction mixture was hydrogenated and stirred for 3 hrs at 45 psi then filtered through celite bed, and washed with EtOH. The filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:4-1:2) as eluant.

reactant | Ethyl 2-(4-amino-3-nitrophenyl)propanoate | 8.90 mmol, 2.12 g | NC1=C(C=C(C=C1)C(C(=O)OCC)C)[N+](=O)[O-] | C11H14N2O4
catalyst | palladium carbon | 220 mg | [C].[Pd]
solvent | THF EtOH | 50 mL | C1CCOC1.CCO
product | Ethyl 2-(3,4-diaminophenyl)propanoate | NC=1C=C(C=CC1N)C(C(=O)OCC)C | C11H16N2O2
